US08957070B2
N-[2-(Piperidin-1-ylcarbonyl)-1H-indol-7-yl]thiophene-2-carboxamide
To a mixture of 7-[(2-thienylcarbonyl)amino]-1H-indole-2-carboxylic acid (100 mg), piperidine (42 μL), 1H-1,2,3-benzotriazol-1-ol (75 mg) and N,N-dimethylformamide (4 mL) was added N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (94 mg) at 4° C., and the mixture was stirred at room temperature for 2 days. The reaction mixture was diluted with ethyl acetate, washed with aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:9-6:4) and the obtained oil was recrystallized from diethyl ether to give the title compound (115 mg, yield 93%) as colorless prism crystals. melting point 131-132° C.

reactant | 7-[(2-thienylcarbonyl)amino]-1H-indole-2-carboxylic acid | 100 mg | S1C(=CC=C1)C(=O)NC=1C=CC=C2C=C(NC12)C(=O)O | C14H10N2O3S
reactant | piperidine | 42 μL | N1CCCCC1 | C5H11N
reactant | 1H-1,2,3-benzotriazol-1-ol | 75 mg | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 94 mg | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | N-[2-(Piperidin-1-ylcarbonyl)-1H-indol-7-yl]thiophene-2-carboxamide | 115 mg, yield 93% | N1(CCCCC1)C(=O)C=1NC2=C(C=CC=C2C1)NC(=O)C=1SC=CC1 | C19H19N3O2S
